US06787536B2
2-[4-(4-Bromophenyl)piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester
A stirred suspension of 4-bromophenylpiperazine hydrochloride (2.84 g) and 2-chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester (2.77 g) [preparation described in WO-A-98/05635] in dichloromethane (50 ml), cooled in an ice-bath, was treated with triethylamine (2.99 ml). The reaction was then stirred at room temperature for 2 h. The reaction mixture was then evaporated in vacuo, and the residue was dissolved in ethyl acetate (75 ml) and washed with 1% aqueous citric acid (2×50 ml), water (50 ml), saturated sodium bicarbonate (50 ml), saturated brine (50 ml), dried (MgSO4) and concentrated in vacuo to provide the title compound as a pale yellow gum (3.81 g, 79%).

reactant | 4-bromophenylpiperazine hydrochloride | 2.84 g | Cl.BrC1=CC=C(C=C1)N1CCNCC1
reactant | 2-chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester | 2.77 g | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | triethylamine | 2.99 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[4-(4-Bromophenyl)piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester | 3.81 g, 79% | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br)=O | C20H31BrN2O4S
